US08017611B2
Tetrabutylammonium fluoride 1.0M in THF (0.629 ml) was added to a stirred solution of 3-(1,3-benzoxazol-2-yl)-5-(2-trimethylsilylethynyl)pyridin-2-amine (0.370 g) in THF (10 ml) at room temperature. The resulting solution was stirred for 1 hour. A yellow precipitate appeared during the reaction. After concentration, the crude product was purified by flash chromatography on silica gel eluting with 0 to 15% ethyl acetate in dichloromethane to afford 3-(1,3-benzoxazol-2-yl)-5-ethynyl-pyridin-2-amine (225 mg) as a solid; NMR Spectrum: (DMSOd6) 4.20 (s, 1H), 7.42-7.51 (m, 2H), 7.80 (dd, 1H), 7.85 (dd, 1H), 8.04 (bs, 2H), 8.31 (d, 1H), 8.36 (d, 1H); Mass spectrum: M+H+: 236

reactant | Tetrabutylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-(1,3-benzoxazol-2-yl)-5-(2-trimethylsilylethynyl)pyridin-2-amine | 0.370 g | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C#C[Si](C)(C)C)N | C17H17N3OSi
solvent | THF | 0.629 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(1,3-benzoxazol-2-yl)-5-ethynyl-pyridin-2-amine | 225 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C#C)N | C14H9N3O
